US05563141
A solution of ethyl isonipecotate (5.1 ml, 33 mMoles) in triethylamine (4.7 ml, 33 mMoles) was added dropwise to a stirred ice-cooled solution of bromoacetyl bromide (2.9 ml, 33 mMoles) in ether (75 ml) and stirring was continued for 1 hour. The resulting suspension was washed sequentially with water (2×20 ml), dilute sodium bicarbonate solution (20 ml), dilute citric acid solution (20 ml), water (20 ml) and saturated brine (30 ml), and then the organic fraction was dried (MgSO4) and concentrated under reduced pressure to give ethyl 1-(bromoacetyl)-piperidin-4-carboxylate (4.6 g) as a yellow oil which was used without further purification; NMR (CDCl3): 1.2 (t,3H), 1.6-2.1 (m,4H), 2.5 (m,1H), 2.9 (m,1H), 3.2 (m,1H), 3.8 (s, 2H+m,1H), 4.15 (q,2H), 4.3 (m,1H); m/e 278/280 (M+H)+.

reactant | ethyl isonipecotate | 33 mMoles, 5.1 ml | N1CCC(C(=O)OCC)CC1 | C8H15NO2
reactant | triethylamine | 33 mMoles, 4.7 ml | C(C)N(CC)CC | C6H15N
reactant | bromoacetyl bromide | 33 mMoles, 2.9 ml | BrCC(=O)Br | C2H2Br2O
solvent | ether | 75 ml | CCOCC | C4H10O
product | ethyl 1-(bromoacetyl)-piperidin-4-carboxylate | 4.6 g | BrCC(=O)N1CCC(CC1)C(=O)OCC | C10H16BrNO3
